US07579341B2
A7e) tert-butyl 4-(1-ethoxycarbonylmethyl-4-methyl-piperidin-4-yl)-piperazine-1-carboxylate
A mixture of 1.53 g (4.78 mmol) tert-butyl 4-(4-methyl-piperidin-4-yl)-piperazine-1-carboxylate and 1.1 mL (5.55 mmol) ethyl oxo-acetate (50% in toluene) in 50 mL THF was stirred for 1 h at RT. The reaction mixture was cooled to 0° C., 1.25 g (5.90 mmol) sodium triacetoxyborohydride was added batchwise and after elimination of the cooling bath the mixture was stirred overnight at RT. It was combined with 10 mL 20% NaHCO3 solution, extracted exhaustively with EtOAc and the combined organic phases were dried over Na2SO4. After elimination of the desiccant and solvent the residue was purified by chromatography (Alox, DCM/EtOH 100:1).

reactant | tert-butyl 4-(4-methyl-piperidin-4-yl)-piperazine-1-carboxylate | 4.78 mmol, 1.53 g | CC1(CCNCC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H29N3O2
reactant | ethyl oxo-acetate | 5.55 mmol, 1.1 mL | O=CC(=O)OCC | C4H6O3
reactant | sodium triacetoxyborohydride | 5.90 mmol, 1.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(1-ethoxycarbonylmethyl-4-methyl-piperidin-4-yl)-piperazine-1-carboxylate | C(C)OC(=O)CN1CCC(CC1)(C)N1CCN(CC1)C(=O)OC(C)(C)C | C19H35N3O4
